US08304036B2
4.70 g (12.5 mmol) of ethyltriphenylphosphonium bromide are initially introduced in 50 ml of THF at 0° C., and 1.40 g (12.5 mmol) of potassium tert-butoxide dissolved in 30 ml of THF are added. After 1 h, 4.2 g (10.4 mmol) of 5-(2′,3′-difluoro-4′-propoxybiphenyl-4-yl)selenophene-2-carbaldehyde in 100 ml of THF are added, and the batch is stirred at RT for 18 h. Water and 2 N hydrochloric acid are added to the mixture, and the batch is extracted with MTBE. The combined organic phases are washed with sat. sodium chloride soln. and dried using sodium sulfate. The solution is concentrated to dryness, and the residue is purified by column chromatography (SiO2, toluene). 2-(2′,3′-Difluoro-4′-propoxybiphenyl-4-yl)-5-propenylselenophene is obtained as an orange solid.

reactant | potassium tert-butoxide | 12.5 mmol, 1.40 g | CC(C)([O-])C.[K+]
reactant | 5-(2′,3′-difluoro-4′-propoxybiphenyl-4-yl)selenophene-2-carbaldehyde | 10.4 mmol, 4.2 g | FC1=C(C=CC(=C1F)OCCC)C1=CC=C(C=C1)C1=CC=C([Se]1)C=O | C20H16F2O2Se
reactant | Water | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
catalyst | ethyltriphenylphosphonium bromide | 12.5 mmol, 4.70 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-(2′,3′-Difluoro-4′-propoxybiphenyl-4-yl)-5-propenylselenophene | FC1=C(C=CC(=C1F)OCCC)C1=CC=C(C=C1)C=1[Se]C(=CC1)C=CC | C22H20F2OSe
